US09334269B2
To a solution of tert-butyl 3-(4-(trifluoromethoxy)phenoxy)pyrrolidine-1-carboxylate (325 mg, 0.936 mmol) in CH2Cl2 (3.7 mL) was added TFA (360 μL, 4.68 mmol). The colorless solution was dried under reduced pressure and the crude oil obtained purified with a 5 g SCX-2 column washing first with MeOH, then with 2M NH3 in MeOH leading to elution of basic materials to afford 3-(4-(trifluoromethoxy)-phenoxy)pyrrolidine (190 mg, 0.769 mmol, 82% yield).

reactant | tert-butyl 3-(4-(trifluoromethoxy)phenoxy)pyrrolidine-1-carboxylate | 0.936 mmol, 325 mg | FC(OC1=CC=C(OC2CN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C16H20F3NO4
reactant | TFA | 4.68 mmol, 360 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3.7 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-(trifluoromethoxy)-phenoxy)pyrrolidine | 0.769 mmol, 190 mg, 82% yield | FC(OC1=CC=C(OC2CNCC2)C=C1)(F)F | C11H12F3NO2
